US07160909B2
A slurry of (4-Benzyl-1-carbamoyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-8-yloxy)-acetic acid methyl ester (24 mg; 0.06 mmol) in THF (2 mL) and MeOH (0.7 mL) was treated with 1N aqueous LiOH (0.1 mL). The mixture was stirred for 14 hrs and was concentrated in vacuo. Purification by reverse phase chromatography (Vydac C18column; 5% to 70% of 0.1% HCl/H2O in 0.1% HCl/CH3CN) afforded 21 mg (92%) (4-Benzyl-1-carbamoyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-8-yloxy)-acetic acid, compound 8, Scheme 1, as a white solid. 1H NMR (CDCl3) δ 7.30–7.19 (m, 4H), 7.09 (d, J=7.3 Hz, 2H), 6.98 (d, J=8.8 Hz, 1H), 6.87 (app t, J=7.8 Hz, 1H), 6.67 (br s, 1H), 6.42 (d, J=7.8 Hz, 1H), 5.25 (s, 2H), 4.66–4.51 (m, 2H), 3.85 (d, 7.8 Hz, 1H), 2.96–2.84 (m, 1H), 2.76–2.62 (m, 3H); IR (KBr) 3413, 1716, 1667, 1636, 1614, 1496, 1432, 1256, 1115, 721, 701 cm−1; FDMS, 365 (M+1); Anal calcd for C21H20N2O4.0.5 HCl: C, 64.92; H, 5.40; N, 7.32. Found: C, 64.75; H,5.65; N, 7.13.

reactant | (4-Benzyl-1-carbamoyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-8-yloxy)-acetic acid methyl ester | 0.06 mmol, 24 mg | COC(COC=1C=2C3=C(N(C2C=CC1)CC1=CC=CC=C1)CCC3C(N)=O)=O | C22H22N2O4
reactant | LiOH | 1N, 0.1 mL | [Li+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.7 mL | CO | CH4O
product | (4-Benzyl-1-carbamoyl-1,2,3,4-tetrahydro-cyclopenta[b]indol-8-yloxy)-acetic acid | 21 mg, 92% | C(C1=CC=CC=C1)N1C2=C(C=3C(=CC=CC13)OCC(=O)O)C(CC2)C(N)=O | C21H20N2O4
